US07745641B2
In a similar manner to Step 2 of Example 16, 3-chloro-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide (500 mg, 1.65 mmol) was dissolved in THF (20 mL), and the solution was treated with TMEDA (0.80 mL, 5.3 mmol), sec-butyl lithium-hexane solution (0.99 mol/L, 5.3 mL, 5.3 mmol) and DMF (0.281 mL, 3.63 mmol), followed by purification by slurry using diisopropylether to obtain 4-chloro-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (385 mg, yield 71%).

reactant | 3-chloro-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide | 1.65 mmol, 500 mg | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1OC | C17H18ClNO2
reactant | TMEDA | 5.3 mmol, 0.80 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 3.63 mmol, 0.281 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 385 mg, yield 71% | ClC1=C2C(N(C(C2=CC=C1OC)=O)C(C)(C1=CC=CC=C1)C)O | C18H18ClNO3
